US06297258B1
N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-(4-morpholinyl)-6-quinolinyl]acrylamide
To a stirred solution of 3-chloro-N-[4-(3-chloro-4-fluoroanilino)-3-cyano-7-(4-morpholinyl)-6-quinolinyl]propanamide (0.30 g, 0.61 mmol) in 1.2 ml of THF at 0° was added 1.2 ml of 1.0 M KOtBu/tBuOH dropwise during 1 m. After 2 h at 0° the reaction was quenched with solid CO2 and partitioned with DCM-water. The organic layer was washed with water, dried, and evaporated to give 0.28 g of the title compound as a white amorphous solid; ms 452.2 (M+H)+.

reactant | 3-chloro-N-[4-(3-chloro-4-fluoroanilino)-3-cyano-7-(4-morpholinyl)-6-quinolinyl]propanamide | 0.61 mmol, 0.30 g | ClCCC(=O)NC=1C=C2C(=C(C=NC2=CC1N1CCOCC1)C#N)NC1=CC(=C(C=C1)F)Cl | C23H20Cl2FN5O2
reactant | KOtBu tBuOH | 1.0 M, 1.2 ml | CC(C)(C)[O-].[K+].CC(C)(C)O
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
product | N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-(4-morpholinyl)-6-quinolinyl]acrylamide | 0.28 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(C=C)=O)N2CCOCC2)C#N)C=CC1F | C23H19ClFN5O2
